US05824691
To a solution of methyl 3-hydroxymethyl-5-(pyrrol-1-yl)benzoate (4.0 g) in pyridine (40 ml) was added acetic anhydride (4.9 ml) under ice cooling. After being stirred for 3 hours under ice cooling, the reaction mixture was poured into ice-water and the product was extracted with diethyl ether. The diethyl ether extracts were washed with water, 1N-hydrochloric acid and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (5:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to afford methyl 3-acetoxymethyl-5-(pyrrol-1-yl)benzoate (4.68 g).

reactant | methyl 3-hydroxymethyl-5-(pyrrol-1-yl)benzoate | 4.0 g | OCC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C13H13NO3
reactant | acetic anhydride | 4.9 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | methyl 3-acetoxymethyl-5-(pyrrol-1-yl)benzoate | 4.68 g | C(C)(=O)OCC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C15H15NO4
